US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (1.3 g) and 0.79 g of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 10 ml of dimethylacetamide. After standing overnight the mixture is evaporated in a vacuum. The residue is digested with 25 ml of water and the precipitate formed is filtered off under suction and dried. There are obtained 1.7 g of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a colourless powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1.3 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C2=CC(=C(C=C2)O)O)C)=O | C25H20N8O7S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.79 g | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(3,4-dihydroxyphenyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1.7 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C2=CC(=C(C=C2)O)O)C)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C36H33N11O11S3
